US08937184B2
Part A: A magnetically stirred mixture of ethyl 5-methyl-1H-imidazole-4-carboxylate (13.875 g, 0.090 mol), phenylboronic acid (13.16 g, 0.108 mol) and CuI (0.85 g, 0.0045 mol) in ethanol/water (900 ml, 1/1 (v/v)) was divided in 12 equal portions and reacted in parallel at 85° C. for 60 hours. After cooling to room temperature the 12 portions were combined and concentrated in vacuo. The residue was purified by flash chromatography (Ethylacetate/petroleum ether 40-65=1/1 (v/v)) to give ethyl 5-methyl-1-phenyl-1H-imidazole-4-carboxylate (5.88 g, 26% yield). 1H-NMR (400 MHz, CDCl3): 1.42 (t, J=7 Hz, 3H), 2.47 (s, 3H), 4.40 (q, J=7 Hz, 2H), 7.26-7.31 (m 7.56 (m, 3H), 7.59 (s, 1H).

reactant | ethyl 5-methyl-1H-imidazole-4-carboxylate | 0.090 mol, 13.875 g | CC1=C(N=CN1)C(=O)OCC | C7H10N2O2
reactant | phenylboronic acid | 0.108 mol, 13.16 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | ethanol water | 900 ml | C(C)O.O
catalyst | CuI | 0.0045 mol, 0.85 g | [Cu]I
product | ethyl 5-methyl-1-phenyl-1H-imidazole-4-carboxylate | 5.88 g, 26% yield | CC1=C(N=CN1C1=CC=CC=C1)C(=O)OCC | C13H14N2O2
